US05981533
In the presence of 30 mg of Raney nickel, 110 mg (0.30 mmol) of 3-(3-nitro-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine are hydrogenated in 3 ml of methanol and 3 ml of THF. The catalyst is filtered off, then 15 g of silica gel are added to the filtrate, which is then concentrated by evaporation. Application of the powder to a silica gel column, elution with methylene chloride/ethanol (15:1) and stirring of the crude product with diethyl ether/hexane yield 3-(3-amino-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine; m.p. 264-266° C.; TLC: Rf =0.45 (methylene chloride/methanol 10:1); HPLC: TRet (Grad20-100)=9.7.

reactant | 3-(3-nitro-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 0.30 mmol, 110 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C17H11ClN6O2
catalyst | Raney nickel | 30 mg | [Ni] | Ni
solvent | methanol | 3 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(3-amino-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine | NC=1C=C(C=CC1)C1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C17H13ClN6
